US06114390
a) (R)-N2 -[(2-Naphthyl)carbonyl]-N5 -(phenylmethoxycarbonyl)-ornithine
Prepared analogously to Example 4a) from 2-naphthalene carboxylic acid and (R)-N5 -(phenylmethoxycarbonyl)-ornithine in a yield of 73% of theory. Colourless crystals, Mp. 155-157° C.

reactant | 2-naphthalene carboxylic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | (R)-N5 -(phenylmethoxycarbonyl)-ornithine | C1(=CC=CC=C1)COC(=O)NCCC[C@@H](N)C(=O)O | C13H18N2O4
product | (R)-N2 -[(2-Naphthyl)carbonyl]-N5 -(phenylmethoxycarbonyl)-ornithine | yield of 73% | C1=C(C=CC2=CC=CC=C12)C(=O)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C24H24N2O5
